US08378041B2
To a clean, dry round-bottom flask was added 2-nitro-1,3-benzenedimethanol (818 mg, 4.47 mmol), anhydrous DMF (40 mL), and imidazole (304.2 mg, 4.47 mmol). The solution was maintained at 0° C. while tert-butyldimethylsilylchloride (337 mg, 2.24 mmol) was slowly added. The resulting pale yellow solution was allowed to warm to room temperature and stirred overnight under argon before being diluted with ethyl acetate (100 mL), washed with water (5×50 mL), dried over MgSO4, filtered, concentrated on a rotary evaporator, and purified by silica gel chromatography (30% EtOAc:hexanes) to yield 3-(tert-butyldimethylsilyloxymethyl)-2-nitro-hydroxymethylbenzene as a yellow oil which crystallized upon further solvent removal in vacuo. The excess 2-nitro-1,3-benzenedimethanol was recovered and re-subjected to the reaction conditions to yield Compound 9 in 80% yield after three iterations.

reactant | 2-nitro-1,3-benzenedimethanol | 4.47 mmol, 818 mg | [N+](=O)([O-])C1=C(C=CC=C1CO)CO | C8H9NO4
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
reactant | imidazole | 4.47 mmol, 304.2 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilylchloride | 2.24 mmol, 337 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(tert-butyldimethylsilyloxymethyl)-2-nitro-hydroxymethylbenzene | 80% yield | [Si](C)(C)(C(C)(C)C)OCC=1C(=C(C=CC1)CO)[N+](=O)[O-] | C14H23NO4Si
